US08071592B2
1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-5-(methyloxy)-2(1H)-quinolinone Benzoate
1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[5-fluoro-7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate and 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-fluoro-5-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate (1:1 mixture) (300 mg, 0.53 mmol) were dissolved in chloroform (5 ml) and 4M HCl in 1,4-dioxane solution was added (1 ml). The reaction was stirred at rt under argon for 1 h. Solid formed was dissolved in MeOH and the solvents removed. The solids were redissolved in MeOH and stirred with Amberlyst resin until neutral pH reached. The resin was filtered and solvent removed to afford 220 mg of crude material which was purified by chromatography to afford 82 mg of a 1:1 mixture of the free bases of the title compounds.

reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[5-fluoro-7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=C(C=C(C=C21)OC)F)=O | C30H37FN4O6
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)(1-{2-[7-fluoro-5-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-4-piperidinyl)carbamate | 0.53 mmol, 300 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=C(C=C(C=C21)F)OC)=O | C30H37FN4O6
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | 1-(2-{4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-5-(methyloxy)-2(1H)-quinolinone Benzoate | 220 mg | C(C1=CC=CC=C1)(=O)O.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=CC1=C(C=C(C=C21)F)OC)=O | InChI=1S/C25H29FN4O4.C7H6O2/c1-32-22-13-17(26)12-21-20(22)2-3-25(31)30(21)9-8-29-6-4-18(5-7-29)27-15-19-14-23-24(16-28-19)34-11-10-33-23;8-7(9)6-4-2-1-3-5-6/h2-3,12-14,16,18,27H,4-11,15H2,1H3;1-5H,(H,8,9)
